US04306072
300 g of 34% ammonia were introduced into a balloon flask provided with an agitator and a thermometer and then 159 g of 8-methoxy-7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were added in portions, the temperature being maintained at from 0°-5° C. The mixture was agitated and then the precipitate was dissolved in water. The solution was filtered and treated with 280 cm3 of concentrated hydrochloric acid. The precipitate was dried off, washed and dried. 118 g of 8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 247°-248° C.; yield: 82%).

reactant | ammonia | 300 g | N | H3N
reactant | 8-methoxy-7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 159 g | COC1=C(C=C(C2=C1OCCO2)C(=O)O)S(=O)(=O)Cl | C10H9ClO7S
solvent | water | O | H2O
product | 8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid | 118 g, yield: 82% | COC1=C(C=C(C2=C1OCCO2)C(=O)O)S(N)(=O)=O | C10H11NO7S
